US04543354
Phenethylamine hydrochloride (4.7 g), 2.7 g of paraformaldehyde and 4.6 g of 6-methyl-1,2,3,4,7,8,9,10-octahydro-benzo[f]quinoline-3,10-dione are added to 200 ml of ethanol, and the mixture is stirred under reflux for 2 days. The reaction mixture is then cooled, and the precipitated crystals are collected by filtration and recrystallized from 60% ethanol to give 2.0 g of 6-methyl-1,2,3,4,7,8,9,10-octahydro-9-phenethylaminomethylbenzo[f]quinoline-3,10-dione hydrochloride as colorless needles, melting at 190°-192° C.

reactant | Phenethylamine hydrochloride | 4.7 g | Cl.C(CC1=CC=CC=C1)N
reactant | paraformaldehyde | 2.7 g | C=O | CH2O
reactant | 6-methyl-1,2,3,4,7,8,9,10-octahydro-benzo[f]quinoline-3,10-dione | 4.6 g | CC=1C2=C(C=3CCC(NC3C1)=O)C(CCC2)=O | C14H15NO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-methyl-1,2,3,4,7,8,9,10-octahydro-9-phenethylaminomethylbenzo[f]quinoline-3,10-dione hydrochloride | 2.0 g | Cl.CC=1C2=C(C=3CCC(NC3C1)=O)C(C(CC2)CNCCC2=CC=CC=C2)=O | InChI=1S/C23H26N2O2.ClH/c1-15-13-20-19(9-10-21(26)25-20)22-18(15)8-7-17(23(22)27)14-24-12-11-16-5-3-2-4-6-16;/h2-6,13,17,24H,7-12,14H2,1H3,(H,25,26);1H
